data/pmechdb/original/mc_train_fold0/raw/train.txt
C[Si-:11](C)(C)([CH:10]=[C+:20]CC12CCN(C1N(C3=C2C=CC=C3)C(=O)C4=CC=CC=C4)C(=O)OCC5=CC=CC=C5)[N+](S(=O)(=O)C(F)(F)F)(S(=O)(=O)C(F)(F)F)[Ag-]Br>>C[Si:11](C)(C)[N+](S(=O)(=O)C(F)(F)F)(S(=O)(=O)C(F)(F)F)[Ag-]Br.[CH:10]#[C:20]CC12CCN(C1N(C3=C2C=CC=C3)C(=O)C4=CC=CC=C4)C(=O)OCC5=CC=CC=C5 10,11=10,20
C1=C[CH:10]=[C:11](C=C1)CC[C+:20]=O>>C1C[C+:11]2C=CC=C[CH:10]2[C:20]1=O 10,11=10,20
C1CC1C[N:10]=[N:20][OH2+:21]>>C1CC1C[N+:10]#[N:20].[OH2:21] 10=20;20,21=21
[H:20][C:21](C)(CC)[N+](=O)[O-].CC(C)[N-:10]C(C)C>>[H:20][N:10](C(C)C)C(C)C.CC[C-:21](C)[N+](=O)[O-] 10=20;20,21=21
[H:10][BH3-:11].CC1(OC(C(O1)C([CH:20]=[O:21])OCC2=CC=CC=C2)C(CO)OCC3=CC=CC=C3)C.B.CO.[Na+]>>[H:10][CH:20](C(C1C(OC(O1)(C)C)C(CO)OCC2=CC=CC=C2)OCC3=CC=CC=C3)[O-:21].[BH3:11].B.CO.[Na+] 10,11=10,20;20,21=21
CCC(C)C(C(=O)NCC(=O)NC(C)C(=O)O)[NH2+:21][C:20](=O)[O-:10].C[C+](C)C.C(=O)(C(F)(F)F)[O-].[Cl-]>>CCC(C)C(C(=O)NCC(=O)NC(C)C(=O)O)[NH2:21].[C:20](=O)=[O:10].C[C+](C)C.C(=O)(C(F)(F)F)[O-].[Cl-] 10=20;20,21=21
CCO[C:13]1=[CH:12][CH:11]=[CH:10]C=C1.C[CH+:20]C>>CCO[C+:13]1C=C[CH:10]([CH:11]=[CH:12]1)[CH:20](C)C 10,11=10,20;12,13=11,12
CCO[C:20](=[O:21])[C:10](C)(C)[C:11](C(C)C)([O-:12])OCC>>CCO[C:11](=[O:12])C(C)C.CCO[C:20](=[C:10](C)C)[O-:21] 10,11=10,20;20,21=21;12=11
[H:20][O+:21](CC(=CC=C(CO)SCC[Si](C)(C)C)SCC[Si](C)(C)C)I1(C2=C(C=CC=C2)C(=O)O1)(OC(=O)C)OC(=O)C.CC(=O)[O-:10]>>[H:20][O:10]C(=O)C.CC(=O)OI1(C2=C(C=CC=C2)C(=O)O1)([O:21]CC(=CC=C(CO)SCC[Si](C)(C)C)SCC[Si](C)(C)C)OC(=O)C 10=20;20,21=21
CCC([O-])[O:21][CH:20](C)[O-:10]>>CCC([O-:21])[O-].C[CH:20]=[O:10] 10=20;20,21=21
[H:20][CH2:21][C:22](=[O:23])CC.[NH2-:10]>>[H:20][NH2:10].CC[C:22](=[CH2:21])[O-:23] 10=20;22,23=23;20,21=21,22
CC1CC(C2C(=C)C1(CCC2(C)C=C)C)[O+:11]([Si](C)(C)C)[Zn-:10](Cl)Cl.[Cl-]>>CC1CC(C2C(=C)C1(CCC2(C)C=C)C)[O:11][Si](C)(C)C.Cl[Zn:10]Cl.[Cl-] 10,11=11
[H:20][CH:21](CC(=O)C)[C:22](=[NH+:23]C1=NNC=C1)C.CC(=O)[O-:10].O>>[H:20][O:10]C(=O)C.CC(=O)C[CH:21]=[C:22](C)[NH:23]C1=NNC=C1.O 10=20;22,23=23;20,21=21,22
CCO[C:20](=[OH+:21])C.[OH2:10]>>CCO[C:20](C)([OH2+:10])[OH:21] 10=20;20,21=21
[H:20][C:21]1(C=C[C+:24]([CH:23]=[CH:22]1)O)C(C)C.[F-:10]>>[H:20][F:10].CC(C)[C:21]1=[CH:22][CH:23]=[C:24](C=C1)O 10=20;20,21=21,22;22,23=23,24
[H:20][O+:21](C(C(F)(F)F)([O-])OC(=O)C(F)(F)F)N=C1CC(C2(C1(C3=CCC4CC(CCC4(C3CC2)C)O)C)C)C.CC1CC(=N[OH:10])C2(C1(CCC3C2=CCC4C3(CCC(C4)O)C)C)C>>[H:20][OH+:10]N=C1CC(C2(C1(C3=CCC4CC(CCC4(C3CC2)C)O)C)C)C.CC1CC(=N[O:21]C(C(F)(F)F)([O-])OC(=O)C(F)(F)F)C2(C1(CCC3C2=CCC4C3(CCC(C4)O)C)C)C 10=20;20,21=21
[H:20][O:21]P(=O)(O)O.CC(COC)[OH:10]>>[H:20][OH+:10]C(C)COC.OP(=O)(O)[O-:21] 10=20;20,21=21
CC[N+:21](=[CH:20]C=C(C)C)CC.C1C[C:11](=[CH:10]C(=O)C1)[OH:12].CCNCC>>CC[N:21](CC)[CH:20](C=C(C)C)[CH:10]1[C:11](=[OH+:12])CCCC1=O.CCNCC 10,11=10,20;20,21=21;12=11
C[C:20](C)([O-:10])[O:21]C>>C[C:20](=[O:10])C.C[O-:21] 10=20;20,21=21
[H:20][CH:21](C1=CC=CC=C1)[C:22](=[O:23])C(C)C.[OH-:10]>>[H:20][OH:10].CC(C)[C:22](=[CH:21]C1=CC=CC=C1)[O-:23] 10=20;22,23=23;20,21=21,22
[H:10][BH3-:11].C[C:20](=[O:21])C>>[H:10][C:20](C)(C)[O-:21].[BH3:11] 10,11=10,20;20,21=21
CC[C:20](=[O+:21]CC)OCC.CC[OH:10]>>CC[C:20]([OH+:10]CC)(OCC)[O:21]CC 10=20;20,21=21
CCCCCC[C:20]([N+:21]1=CC=C(C=C1)N(C)C)([O-:10])OC(C)(C)C.CC[NH+](CC)CC.CC(=O)[O-]>>CCCCCC[C:20](=[O:10])OC(C)(C)C.CN(C)C1=CC=[N:21]C=C1.CC[NH+](CC)CC.CC(=O)[O-] 10=20;20,21=21
CCOC(=O)NN(C(=O)OCC)[P+:20](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3.COC1=CC=C(C=C1)OC(CCCCC2=CC=CC=C2)C(C[OH:10])C(=O)[O-]>>CCOC(=O)NN(C(=O)OCC)[P:20](C1=CC=CC=C1)(C2=CC=CC=C2)(C3=CC=CC=C3)[OH+:10]CC(C(CCCCC4=CC=CC=C4)OC5=CC=C(C=C5)OC)C(=O)[O-] 10=20,
C[CH:20]1CO[P:22]2(=[O+:23]C(C(=C2)Cl)(C)C(C)(C)SC3=CC=CC=C3)[O:21]1.[Cl-:10]>>C[CH:20](CO[P:22]1(=[O:21])C=C(C([O:23]1)(C)C(C)(C)SC2=CC=CC=C2)Cl)[Cl:10] 10=20;22,23=23;20,21=21,22
[Li-2:10]1(C2=C(C=CC=C2F)OC(=[O+]1)N(C(C)C)C(C)C)[NH+:11](C(C)C)C(C)C>>[Li-:10]1C2=C(C=CC=C2F)OC(=[O+]1)N(C(C)C)C(C)C.CC(C)[NH:11]C(C)C 10,11=11
[H:20][CH2:21][C:22](=[O+:23]B(CCCC)CCCC)CC(C(C)C)OCC1=CC=C(C=C1)OC.CC[N:10](C(C)C)C(C)C.C(F)(F)(F)S(=O)(=O)[O-]>>[H:20][N+:10](CC)(C(C)C)C(C)C.B(CCCC)(CCCC)[O:23][C:22](=[CH2:21])CC(C(C)C)OCC1=CC=C(C=C1)OC.C(F)(F)(F)S(=O)(=O)[O-] 10=20;22,23=23;20,21=21,22
CC[CH+:20]OC1=CC=CC=C1.C=CCO[C:11]1=[CH:10]C=CC=C1>>CC[CH:20]([CH:10]1C=CC=C[C+:11]1OCC=C)OC2=CC=CC=C2 10,11=10,20
CCN[C:20](C)([OH:10])[Cl:21]>>CCN[C:20](=[OH+:10])C.[Cl-:21] 10=20;20,21=21
[B:20](F)(F)F.COC=[O:10]>>[B-:20]([O+:10]=COC)(F)(F)F 10=20,
[H:20][CH2:21]P(=O)(C)C.CS(=O)[CH2-:10]>>[H:20][CH2:10]S(=O)C.CP(=O)(C)[CH2-:21] 10=20;20,21=21
[Li-:10]1[N+](C2CCCC2C(=[O+:11]1)OC)(C(C)C)C(C)C.[Br-]>>[Li:10][N+](C1CCCC1C(=[O:11])OC)(C(C)C)C(C)C.[Br-] 10,11=11
C[C+:20]=C.[Br-:10]>>C[C:20](=C)[Br:10] 10=20,
C[C:10]#[C:11][N:12](C)S(=O)(=O)C.C[C:20]#[N+:21][Si](C)(C)C.C(F)(F)(F)S(=O)(=O)[O-]>>C[C:10](=[C:11]=[N+:12](C)S(=O)(=O)C)[C:20](=[N:21][Si](C)(C)C)C.C(F)(F)(F)S(=O)(=O)[O-] 10,11=10,20;20,21=21;12=11
